US05034539
1) Methyl (1H-imidazol-4-yl) carboxylate
112.09 g (1 mol) (1H-imidazol-4-yl)carboxylic acid are added to 1.3 l methanol. Dry HCl-gas is bubbled through the mixture which is heated under reflux for 4 hours. Cooling to room temperature and evaporation to 300 ml afford 98 g of the title compound as white crystals. Repeated evaporation leads to 46.5 g additional material (total: 144.5 g, 88.9%). An analytical sample is recrystallized from methanol, melting point: 173°-174° C. (ref.1) mp: 156° C.).

reactant | (1H-imidazol-4-yl)carboxylic acid | 1 mol, 112.09 g | N1C=NC(=C1)C(=O)O | C4H4N2O2
reactant | methanol | 1.3 l | CO | CH4O
product | Methyl (1H-imidazol-4-yl) carboxylate | 98 g | N1C=NC(=C1)C(=O)OC | C5H6N2O2
